US07652051B2
Synthesis of 3-amino-benzo[1,2,4]triazine-7-ol-1-oxide
7.7 g (0.05 mol) of 4-amino-3-nitrophenol was dissolved in 20 mL of glacial acetic acid and the resulting bright-red solution was heated to approximately 100° C. in 500 mL round-bottom flask equipped with a long condenser. To this solution was added a solution of 16.81 g (8.0 equivalent, 0.4 mol) of cyanamide in 20 mL of concentrated hydrochloric acid. In approximately 5-10 min the reaction mixture started to boil vigorously, so the heating was removed and it was stirred without heating until boiling subsided. Then the heating was reapplied and the reaction mixture was refluxed for 48 hrs. Then 150 mL of 30% NaOH was added and the resulting dark-reddish solution was refluxed for additional 3 hrs. Then it was cooled down to room temperature and dark-red slurry was formed. The red precipitate was filtered, re-dissolved in 200 mL of water and 1N HCl was added in portions with stirring until pH reached 5-4. The solution changed color from dark-red into light-yellow and a light-yellow fine precipitate was formed. The precipitate was filtered, washed twice with 50 mL of water, twice with 50 mL of acetonitrile and finally twice with 50 mL of diethyl ether and dried in vacuum to give 4.6 g of a bright-yellow solid. Yield: 51.7%.

reactant | 4-amino-3-nitrophenol | 0.05 mol, 7.7 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | cyanamide | 0.4 mol, 16.81 g, 8.0 equivalent | N#CN | CH2N2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | 3-amino-benzo[1,2,4]triazine-7-ol-1-oxide | 4.6 g, Yield: 51.7% | NC=1N=[N+](C2=C(N1)C=CC(=C2)O)[O-] | C7H6N4O2
